US04582862
1-[4-(Dimethylaminomethylthio)-phenyl]-2-morpholinopropan-1-one
7.7 g (0.03 mol) of 1-(4-mercaptophenyl)-2-methyl-2-morpholinopropan-1-one are treated, while being cooled in ice, with 10 ml of a 40% aqueous solution of dimethylamine. After 30 minutes at room temperature the mixture is again cooled in an ice bath, and 3 ml of a 35% aqueous solution of formaldehyde are added dropwise (≈0.038 mol of formaldehyde). The mixture is then stirred at room temperature for 60 minutes and is heated at 50° C. for a further 2 hours. After cooling, 25 ml of diethyl ether are added to the reaction mixture, the phases are separated and the aqueous phase is extracted three times with ether. After the ether solution has been washed with water it is dried over MgSO4 and evaporated in vacuo, whereupon the crude product is left as an oil (compound No. 34).

reactant | 1-(4-mercaptophenyl)-2-methyl-2-morpholinopropan-1-one | 0.03 mol, 7.7 g | SC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H19NO2S
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | formaldehyde | ≈0.038 mol | C=O | CH2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1-[4-(Dimethylaminomethylthio)-phenyl]-2-morpholinopropan-1-one | CN(C)CSC1=CC=C(C=C1)C(C(C)N1CCOCC1)=O | C16H24N2O2S
